US05834463
(3aR*,10aS*)-4-(Phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one
To a solution of (3aR*,10aS*)-9-(4-methoxybenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one (9.89 g, 19 mmol) in chloroform (150 mL) was added a solution of ammonium cerium (IV) nitrate (31.3 g, 57 mmol) and water (5 mL) in acetonitrile (150 mL), and the mixture was stirred for 10 minutes at room temperature. The reaction mixture was poured into water (300 mL), which was subjected to extraction twice with chloroform. Organic layers were combined, washed with water and a saturated aqueous solution of sodium hydrogencarbonate, dried over magnesium sulfate and subjected to filtration. The filtrate was concentrated under reduced pressure. The concentrate was purified by silica-gel column chromatography (chloroform-ethyl acetate 2:1) to a crystalline product, which was washed with chloroform-diisopropyl ether to give 3.7 g (yield 50%) of the titled compound.

reactant | (3aR*,10aS*)-9-(4-methoxybenzyl)-4-(phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]diazepin-10(1H)-one | 19 mmol, 9.89 g | COC1=CC=C(CN2C3=C(N([C@H]4[C@@H](C2=O)CCC4)C(CN4C(C=2C(C4=O)=CC=CC2)=O)=O)C=CC=C3)C=C1 | C30H27N3O5
reactant | ammonium cerium (IV) nitrate | 57 mmol, 31.3 g | [N+](=O)([O-])[O-].[Ce+4].[NH4+].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
reactant | water | 5 mL | O | H2O
reactant | water | 300 mL | O | H2O
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
product | (3aR*,10aS*)-4-(Phthalimidoacetyl)-2,3,3a,4,9,10a-hexahydrobenzo[b]cyclopenta[e][1,4]-diazepin-10(1H)-one | 3.7 g, yield 50% | C1(C=2C(C(N1CC(=O)N1C3=C(NC([C@@H]4[C@H]1CCC4)=O)C=CC=C3)=O)=CC=CC2)=O | C22H19N3O4
